US07211577B2
Preparation of 2-isobutyl-4-(4-methyl-1-piperazinyl)methyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-isobutyl-4-methanesulfonyloxymethyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one and 1-methylpiperazine were reacted to yield the title compound as a yellow oil (yield: 68.3%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)SC | C17H22N2O4S2
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-isobutyl-4-(4-methyl-1-piperazinyl)methyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one | yield: 68.3% | C(C(C)C)N1N=C(C=C(C1=O)CN1CCN(CC1)C)C1=CC=C(C=C1)SC | C21H30N4OS
